US07238808B2
5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.5) (73 mg, 0.25 mmol) and 5-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide (85 mg, 0.25 mmol) (Example B.7) according to general procedure II. Obtained as a yellow solid (38 mg, 28%). MS (ISP) 551.3[(M+H)+]; mp 253–256° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 73 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#C | C17H12ClN3
reactant | 5-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide | 0.25 mmol, 85 mg | BrC=1C=CC(=C(C1)S(=O)(=O)NC(CO)(C)C)OC | C11H16BrNO4S
product | 5-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#CC=2C=CC(=C(C2)S(=O)(=O)NC(CO)(C)C)OC | C28H27ClN4O4S
